US08058269B2
The mixture of rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (740 mg, 2 mmol), 3-amino-benzoic acid (301 mg, 2.2 mmol) and K2CO3 (552 mg, 4 mmol) in DMF (5 mL) was stirred for 0.5 h and then poured into water (100 mL). The resulting solution was acidified by acetic acid and filtered. The filter cake was washed by water and dried to give rac-3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoic acid as a pale yellow solid. MS m/z 425 (M−H)−.

reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 2 mmol, 740 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | 3-amino-benzoic acid | 2.2 mmol, 301 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | K2CO3 | 4 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | rac-3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoic acid | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)NC=1C=C(C(=O)O)C=CC1 | C22H16Cl2N2O3
